US07161032B2
In methyl t-butyl ether (60 ml) was suspended 5.47 g (10 mmol) of 6-iodo-N-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}phthalamic acid, and a solution of 3.15 g (15 mmol) of trifluoroacetic anhydride in methyl t-butyl ether was slowly dropped thereinto. The resulting mixture was stirred at room temperature for 3 hours and then poured into ice water, followed by three runs of extraction with ethyl acetate. The extract solution was washed twice with saturated aqueous sodium hydrogencarbonate solution and then once with saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off and the crude crystals thus obtained were washed twice with a solvent (hexane:ethyl acetate=4:1) to obtain 5.0 g (yield 94%) of 1,3-dihydro-7-iodo-3-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoro-methyl)ethyl]phenylimino}-2-benzofuran-1-one.

reactant | 6-iodo-N-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}phthalamic acid | 10 mmol, 5.47 g | IC=1C=CC=C(C1C(=O)O)C(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C18H11F7INO3
reactant | trifluoroacetic anhydride | 15 mmol, 3.15 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methyl t-butyl ether | 60 ml | C(C)(C)(C)OC | C5H12O
product | 1,3-dihydro-7-iodo-3-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoro-methyl)ethyl]phenylimino}-2-benzofuran-1-one | 5.0 g, yield 94% | IC1=CC=CC2=C1C(OC2=NC2=C(C=C(C=C2)C(C(F)(F)F)(C(F)(F)F)F)C)=O | C18H9F7INO2
